US09029560B2
Preparation of 3-(4-(2-isocyanatopropyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (C39)
To 2-methyl-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)-propanoic acid (0.84 g, 2.2 mmol) in toluene (21.6 mL) was added triethylamine (0.33 mL, 2.4 mmol) and diphenyl phosphorazidate (0.47 mL, 2.2 mmol) and the solution was stirred at room temperature for 2 hours. The reaction was diluted with ethyl acetate and water and the layers separated. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated. The crude material was loaded onto a Celite® cartridge and purified by flash column chromatography using 0-100% ethyl acetate/B, where B=1:1 dichloromethane/hexanes, as eluent to afford the title compound as a white solid (0.53 g, 58%): 1H NMR (400 MHz, CDCl3) δ 8.56 (s, 1H), 8.21-8.11 (m, 2H), 7.88-7.77 (m, 2H), 7.39 (d, J=8.3 Hz, 2H), 7.32 (d, J=8.4 Hz, 2H), 3.94-3.80 (m, 1H), 2.87 (d, J=6.8 Hz, 2H), 1.35 (d, J=6.5 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ −58.03; ESIMS m/z 389 ([M+H]+).

reactant | 2-methyl-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)-propanoic acid | 2.2 mmol, 0.84 g | CC(C(=O)O)CC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C19H16F3N3O3
reactant | triethylamine | 2.4 mmol, 0.33 mL | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphorazidate | 2.2 mmol, 0.47 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)(=O)N=[N+]=[N-] | C12H10N3O3P
solvent | toluene | 21.6 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-(4-(2-isocyanatopropyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | 0.53 g, 58% | N(=C=O)C(CC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C | C19H15F3N4O2
